US05154755
Synthesis of 3-(2,4-dichloro-5-ethanesulfonylaminophenyl)-1-methyl-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione (Compound 9)
To 8 ml of dioxane, 0.80 g of the obtained 3-[5-bis (ethanesulfonyl)amino-2,4-dichlorophenyl]-1-methyl-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione was dissolved and 0.12 g of sodium hydroxide (93%) and 2 ml of water were added to the obtained solution. After the mixed solution was stirred for 4 hours, a dilute hydrochloric acid was added thereto in order to acidify the resultant solution. The reaction mixture was extracted with ethyl acetate. The obtained extract of the ethyl acetate layer was washed with water and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. Then ethyl acetate was distilled off to obtain a crude product. The obtained product was purified by preparative thin-layer chromatography (developing solvent: hexane/ethyl acetate=3/2) to obtain 0.46 g of the objective product as white crystals.

reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
reactant | 3-[5-bis (ethanesulfonyl)amino-2,4-dichlorophenyl]-1-methyl-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione | 0.80 g | C(C)S(=O)(=O)N(C=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl)Cl)S(=O)(=O)CC | C16H16Cl2F3N3O6S2
reactant | sodium hydroxide | 0.12 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 ml | O | H2O
product | 3-(2,4-dichloro-5-ethanesulfonylaminophenyl)-1-methyl-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione | 0.46 g | ClC1=C(C=C(C(=C1)Cl)NS(=O)(=O)CC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H12Cl2F3N3O4S
